US05131946
3-(4-Chloro-2-fluoro-5-hydroxyphenylimino)tetrahydro-1H,3H-pyrrolo[1,2-c]thiazole (Process G)
22 g 3-(4-Chloro-2-fluoro-5-methylsulphonyloxyphenylimino)-tetrahydro-1H,3H-pyrrolo[1,2-c]thiazole in 400 ml ethanol was treated with 400 ml 2 N caustic soda and stirred at 40° C. for 4 hours. With ice cooling it was then neutralised with 10% hydrochloric acid and extracted with methylene chloride. After drying over magnesium sulphate and concentrating, the residue was recrystallised from isopropanol.

reactant | 3-(4-Chloro-2-fluoro-5-methylsulphonyloxyphenylimino)-tetrahydro-1H,3H-pyrrolo[1,2-c]thiazole | 22 g | ClC1=CC(=C(C=C1OS(=O)(=O)C)N=C1SCC2N1CCC2)F | C13H14ClFN2O3S2
reactant | caustic soda | 2 N, 400 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3-(4-Chloro-2-fluoro-5-hydroxyphenylimino)tetrahydro-1H,3H-pyrrolo[1,2-c]thiazole | ClC1=CC(=C(C=C1O)N=C1SCC2N1CCC2)F | C12H12ClFN2OS
